datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][O:33][H:34]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:32][O:33][H:34],58.19944
[O:0]=[S:1][O:2][H:3].[O:4][O:5]>>[H:3][O:4][O:5].[O:0]=[S:1]=[O:2],4.184
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][O:27][O:28],199.11656
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:11])([H:9])[H:10],36.7355
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3]1([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:13])[H:12])([H:10])[H:11],16.2758
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]([C:14]=[S:15])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])=[S:15],53.9736
[C:0]([C:1](=[O:2])[C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([O:6][C:7]([C:8]([H:19])([H:20])[H:21])=[O:9])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1](=[O:2])[C:3]([C:4](=[C:5]([H:17])[H:18])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:6]=[C:7]([C:8]([H:19])([H:20])[H:21])[O:9][H:16],153.1344
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[C:8](=[C:9]([C:10]([H:15])[H:16])[H:13])([H:11])[H:12],58.1576
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8].[O:16][H:17]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8].[H:10][O:16][H:17],-12.162888
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][O:7][H:8]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][O:6][O:7][H:8],43.287664
[C:4]([C:5](=[S:6])[H:9])([H:7])[H:8].[S:0]([S:1][H:3])[H:2]>>[H:2][C:4]([C:5](=[S:6])[H:9])([H:7])[H:8].[S:0][S:1][H:3],13.3888
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])=[C:10]([C:11]([H:19])([H:20])[H:21])[H:18])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:10]([C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])[C:9]([H:15])([H:16])[H:17])([C:11]([H:19])([H:20])[H:21])[H:18])[H:3],30.5432
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[H:13]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]=[O:4])[H:8])([H:5])([H:6])[H:7].[H:12][H:13],10.8784
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17](=[O:18])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:24])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]=[O:18])([H:22])[H:23])([H:19])([H:20])[H:21],39.748
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](#[C:7][C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:8]([C:7]#[C:6][H:9])([H:10])[H:11],29.7482
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])[H:9])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])[H:9])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18])[H:14])([H:12])[H:13]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18],68.1155
[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7])([H:4])[H:5].[C:11](=[O:12])[H:13]>>[C-:11]#[O+:12].[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7])([H:4])([H:5])[H:13],0.0
